2134-01-06 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Femoral catheter pulled without incident, no residual hematoma.  Pt
   denied further episodes of chest pain, had some back pain which
   resolved.  Weaned off nitro gtt.  No longer on integrilin this AM.
   Overnight, had Foley catheter placed with some resistance, blood in
   tube and abdominal pain.  Foley pulled and bladder scan showed ~600cc
   urine.  Urology was called and they recommended a Coude catheter.  This
   was placed and urine drained which was red in color.  Continues to
   drain red urine.  Pt denies further pain.
   ROS otherwise negative for chest pain, SOB, back pain, diaphoresis, N/V
   or abdominal pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-1-6**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 67 (59 - 97) bpm
   BP: 113/59(71) {87/50(60) - 145/91(98)} mmHg
   RR: 15 (10 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.9 kg (admission): 90.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,479 mL
                                                                    247 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,359 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                    550 mL
   Urine:
                                                                  2,880 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,401 mL
                                                                   -303 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GENERAL: Elderly male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
   NECK: Supple with JVP not appreciated.
   CARDIAC: normal S1, S2. No m/r/g.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness
   EXTREMITIES: 1 + edema bilaterally, intention tremor of Right hand,
   strength 4/5 in both UE equally
   R femoral groin site without hematoma, no ecchymosis, no femoral
   bruits, 2+ femoral pulses
   PULSES:  2+ throughout
   NEURO A&O x3
   .
   Labs / Radiology
   181 K/uL
   11.7 g/dL
   98 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.2 mEq/L
   18 mg/dL
   106 mEq/L
   139 mEq/L
   33.8 %
   5.1 K/uL
        [image002.jpg]
   CKs on admission: 258  MB 23  MBI 8.9  Trop 0.92
   CKs at 9pm [**2134-1-5**]:  378  MB 29  MBI 7.7, Trop 0.97
   CKs at 6am [**2134-1-6**]:  333 MB 22 MBI 6.6  Trop 0.83
                             [**2134-1-5**]  12:11 PM
                             [**2134-1-5**]  09:46 PM
                            [**2134-1-6**]  04:39 AM
   WBC
   5.1
   Hct
   34.1
   33.8
   Plt
   175
   181
   Cr
   1.3
   TropT
   0.92
   0.97
   Glucose
   98
   Other labs: PT / PTT / INR:13.4/24.0/1.1, CK / CKMB /
   Troponin-T:333/29/0.97, D-dimer:625 ng/mL, Ca++:9.0 mg/dL, Mg++:2.2
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 77M with CAD who presents with NSTEMI and
   continued chest and back pain.
   .
   # CORONARIES: Presented with NSTEMI (vs STEMI) found to have LMCA
   lesion (Cypher stent placed), 90% diag (minivision stent placed) and
   RCA lesion (50-60%; not stented).
   - cardiac enzymes have now peaked and are trending down, no need to
   check further
   - Continue with aspirin, plavix, Lipitor 80mg and Metoprolol 25mg PO
   BID
   - hold on ACE due to hypotension
   - will need lifetime Plavix
   .
   # BACK PAIN: Likely anginal equivalent, now resolved.  Can consider
   further workup if pain recurs.
   .
   # PUMP: No records to document evidence of ventricular function,
   appears relatively euvolemic on exam.
   - TTE
   .
   # RHYTHM: NSR, monitor on tele.
   .
   # ANEMIA: HCT dropped 40 to 32.6 from OSH to now.  No obvious source of
   bleeding though did start heparin gtt yesterday.
   - HCT stable, continue to trend
   .
   # Urinary Retention: likely secondary to BPH.  Pt is on Terazosin as
   per home dose.  Has never taken Finasteride.  Does not have outpatient
   urologist.
   - call urology to discuss further management given red blood draining
   from Coude catheter
   - continue Terazosin
   .
   # PARKINSONS:  Consider sinemet.
   .
   #. RHEUMATOID ARTHRITIS:  On MTX at home; will hold this in the
   short-term though will need to be restarted long-term.
   .
   # FEN: Cardiac diet
   # ACCESS: PIV's
   # PROPHYLAXIS: SC heparin for DVT prophylaxis
   # CODE: Full code; discussed with patient and family at time of
   admission to CCU
   # DISPO: Call out to floor now chest pain free
   .

2134-01-07 05:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No cardiac Sx.  Was called out, but no bed available.  Continued to
   have significant hematuria.  Pt. required irrigation w/ NS Q4h with
   continued clot removal.  Had an episode on suprapubic discomfort
   for several minutes.  Pt. requires flushing Q4h for continued UOP,
   foley in correct place.  Discussed w/ Urology, they recommended
   continuing as we are, if pain persists, can start detrol 5mg tid (pt
   was asleep, so did not start).  They will see him in AM.  HCT stable at
   32-33.
   This AM pt. developed chest pain (central) and back pain, similar to
   pain on  presentation/cath course in character but lower in intensity
   5/10max.  On further questioning, pt has had similar pain PTA for many
   months. VS were wnl.  ECG showed new TwI in V2,4, w/ no other
   abnormalities.  Pt. was given SLNitro x3 w/ reduction in pain to [**2-5**]
   then complete resolution after morphine 1mg x1.  ECG when CP free w/
   biphasic Tw in V2,4
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-1-6**] 10:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-1-7**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 60 (60 - 91) bpm
   BP: 91/53(63) {86/48(58) - 135/73(138)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.9 kg (admission): 90.9 kg
   Height: 70 Inch
     HR in 60s on Telemetry, w/ 3-4b NSVT
   Total In:
                                                                  1,457 mL
   PO:
                                                                  1,330 mL
   TF:
   IVF:
                                                                    127 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  1,020 mL
   Urine:
                                                                  2,240 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -783 mL
                                                                 -1,020 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   GENERAL: Elderly male in NAD. Oriented x3. Mood, affect appropriate,
   flat facies
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
   NECK: Supple with JVP not appreciated.
   CARDIAC: normal S1, S2. No m/r/g.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness
   Back: No TTP along lateral or posterior surfaces.
   EXTREMITIES: trace edema bilaterally,
   R femoral groin site without hematoma, no ecchymosis, no femoral
   bruits, 2+ femoral pulses
   PULSES:  2+ throughout
   NEURO A&O x3, resting tremor RUE and RLE,  strength 4/5 in both UE
   equall.
   Labs / Radiology
   157 K/uL
   11.6 g/dL
   103 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   24 mg/dL
   107 mEq/L
   141 mEq/L
   33.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2134-1-5**]  12:11 PM
                             [**2134-1-5**]  09:46 PM
                            [**2134-1-6**]  04:39 AM
                            [**2134-1-7**]  02:55 AM
   WBC
   5.1
   5.8
   Hct
   34.1
   33.8
   33.9
   Plt
   175
   181
   157
   Cr
   1.3
   1.4
   TropT
   0.92
   0.97
   0.83
   Glucose
   98
   103
   Other labs: PT / PTT / INR:13.4/24.0/1.1, CK / CKMB /
   Troponin-T:333/22/0.83, D-dimer:625 ng/mL, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   77M with CAD who presents with NSTEMI and continued chest and back
   pain.
   .
   # CORONARIES: CP today although similar in character to presentation
   initially, upon further questioning similar to spinal pain.  No
   trauma.  Feel this is most likely musculoskeletal in origin, but  given
   similar sx to anginal equivalent, will cycle cardiac enzymes.  Unlikely
   intrastent thrombosis given lack of STelevations.  Initially presented
   with NSTEMI (vs STEMI) found to have LMCA lesion (Cypher stent placed),
   90% diag (minivision stent placed) and RCA lesion (50-60%; not
   stented).
   - Cycle cardiac enzymes
   - 250cc bolus s/p NTG to maintain BPs
   - Pain control w/ IV morphine, OOB and PT
   - Continue with aspirin, plavix, Lipitor 80mg and Metoprolol 25mg PO
   BID
   - holding on ACE due to hypotension, will restart once CP controlled
   and no SBPs > 110 systolic.
   - will need lifetime Plavix, given ASA, Plavix, will continue
   Ranitidine
   .
   # BACK PAIN: Likely anginal equivalent but also possible [**2-28**] spinal
   stenosis.  Cycling enzymes as above.  Morphine for pain control for
   now.  OOB/PT.  will reassess if continued poor control.
   .
   # PUMP:  Euvolemic on exam, LVEF 50% w/ septal hypertrophy and mild
   regional left ventricular systolic dysfunction with probable mid to
   distal anterior hypokinesis.  Consistent w/ Cath.
   -          Continued BBK, no lasix for now
   -          Will need to start ACE-I as soon as BPs tolerate.
   .
   # RHYTHM: NSR, monitor on tele.
   .
   # ANEMIA: HCT dropped 40 to 32.6 from OSH to now, but has been stable
   32-34.   No GI source of bleeding.   Hematuria, now improving (see
   below).
   -          HCT stable, continue to trend
   -          Guiac all stools
   .
   # Urinary Retention: likely secondary to BPH.  Pt is on Terazosin as
   per home dose.  Has never taken Finasteride.  Does not have outpatient
   urologist.  Has traumatic foley placement, now w/ Coude catheter and
   requiring irrigation Q3-4hrs for UOP, removing frequent clots.  Pt. w/
   one episode of suprapubic pain, did not require Detrol.
   - Discussed w/ urology will see him today, will likely perform a
   voiding trial.
   - continue Terazosin
   .
   # PARKINSONS:  Consider sinemet.
   .
   #. RHEUMATOID ARTHRITIS:  On MTX at home; will hold this in the
   short-term though will need to be restarted long-term.
   .
   # FEN: Cardiac diet
   # ACCESS: PIV's
   # PROPHYLAXIS: SC heparin for DVT prophylaxis
   # CODE: Full code; discussed with patient and family at time of
   admission to CCU
   # DISPO: Call out to floor now chest pain free
   .